US06211242B1
A solution of 4-(4′-nitrobiphenyl-2-carboxamido)-N-(2-benzyloxy-4-methylphenyl)-N-methylbenzamide (430 mg), 20% palladium hydroxide (80 mg) in methanol (20 ml) and 1,4-dioxane (30 ml) was stirred under atmospheric pressure of hydrogen at 30° C. After 5 hours, the reaction mixture was filtered through a bed of Celite, and the solvent was removed by evaporation and the crude product was purified by silica gel column chromatography (SiO2; 30 g, 3% methanol in chloroform) to give 4-(4′-aminobiphenyl-2-carboxamido)-N-(2-hydroxy-4-methylphenyl)-N-methylbenzamide (350 mg) as amorphous.

reactant | 4-(4′-nitrobiphenyl-2-carboxamido)-N-(2-benzyloxy-4-methylphenyl)-N-methylbenzamide | 430 mg | [N+](=O)([O-])C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C)C2=C(C=C(C=C2)C)OCC2=CC=CC=C2)C=C1 | C35H29N3O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
catalyst | palladium hydroxide | 80 mg | [OH-].[Pd+2].[OH-]
product | 4-(4′-aminobiphenyl-2-carboxamido)-N-(2-hydroxy-4-methylphenyl)-N-methylbenzamide | 350 mg | NC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C)C2=C(C=C(C=C2)C)O)C=C1 | C28H25N3O3
